US04769480
To 100 ml of ethanol, were charged 0.18 ml of ethanol containing 22.2 g of hydrochloric acid dissolved therein, 0.79 g of N-methylaminoacetaldehyde dimethylacetal, 1.0 g of 2-methoxy-3,4-methylenedioxybenzaldehyde, 0.12 g of 5% palladium on carbon catalyst and 10 ml of ethanol, and hydrogenation was carried out in an oil bath at 70° C. for 2 hours. The amount of hydrogen absorption was 100% of the theoretical amount. After the reaction was over, the catalyst was filtered out and 2N NaOH aqueous solution was added to the reaction mixture to make the filtrate alkaline (pH 11). The resulting mixture was then extracted with ethyl acetate. The liquid extract was analyzed by GC and LC to show 1.32 g of 2-methoxy-3,4-methylenedioxy-N-methylbenzylamino dimethylacetal (yield 84%), 0.02 g of 2-methoxy-3,4-methylene-dioxybenzylalcohol (yield 2%), 0.076 g of 2-methoxy-3,4-methylenedioxytoluene (yield 8%) and 0.007 g of 2-methoxy-3,4-methylenedioxybenzaldehyde of the starting material (conversion rate:99%). The selectivity to the desired 2-methoxy-3,4-methylenedioxy-N-methylbenzylamino dimethylacetal was 98%.

reactant | hydrochloric acid | Cl | ClH
reactant | N-methylaminoacetaldehyde dimethylacetal | 0.79 g | COC(CNC)OC | C5H13NO2
reactant | 2-methoxy-3,4-methylenedioxybenzaldehyde | 1.0 g | COC1=C(C=O)C=CC2=C1OCO2 | C9H8O4
catalyst | palladium on carbon | 0.12 g | [Pd] | Pd
catalyst | 2-methoxy-3,4-methylenedioxybenzaldehyde | 0.007 g | COC1=C(C=O)C=CC2=C1OCO2 | C9H8O4
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 0.18 ml, 22.2 g | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-methoxy-3,4-methylenedioxytoluene | 0.076 g, yield 8% | COC1=C(C=CC2=C1OCO2)C | C9H10O3
